US06900215B2
3-(5-Bromo-2-fluorophenyl)isonicotinonitrile (40 mg, 0.14 mmol) was coupled to 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine (0.18 mmol) by the method of Example 32. Purification by chromatography on silica gel eluting with dichloromethane containing 3% methanol, then recrystallisation from toluene/isohexane, gave 3-[2-fluoro-5-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)phenyl]isonicotinonitrile as a yellow solid: δH (400 MHz, CDCl3) 7.30 (1H, d, J 7), 7.51 (1H, t, J 9), 7.67-7.73 (3H, m), 8.13 (1H, s), 8.87 (1H, d, J 5), 8.96-8.98 (2H, m); m/z (ES+) 384 (M++H).

reactant | 3-(5-Bromo-2-fluorophenyl)isonicotinonitrile | 0.14 mmol, 40 mg | BrC=1C=CC(=C(C1)C1=C(C#N)C=CN=C1)F | C12H6BrFN2
reactant | 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine | 0.18 mmol | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
product | 3-[2-fluoro-5-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)phenyl]isonicotinonitrile | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F)C2=C(C#N)C=CN=C2 | C19H9F4N5
